US04874775
N-(2,4-dimethylphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 4.2 g. portion of 3-(2,4-dimethylphenylaminomethyl)pyridine was dissolved in 20 ml. of dichloromethane and 4.1 g. of potassium carbonate and 2.5 ml. of methanesulfonyl chloride were added. The mixture was stirred over the week-end under reflux, and was then extracted with 20 ml. of aqueous sodium bicarbonate. The organic phase was dried and evaporated under vacuum. The residue was dissolved in diethyl ether and the solution was separated from insolubles and evaporated under vacuum. The oil was dissolved in chloroform and chromatographed over silica gel, eluting with chloroform:ethyl acetate to obtain 2.5 g. of the desired product, m.p. 62°-65°.

reactant | 3-(2,4-dimethylphenylaminomethyl)pyridine | CC1=C(C=CC(=C1)C)NCC=1C=NC=CC1 | C14H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-dimethylphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C)CC=1C=NC=CC1 | C15H18N2O2S
